US06444685B1
4-Fluoro-N-(2-hydroxyethyl)-benzenesulfonamide
The title compound was prepared according to the procedure of Intermediate 33 from 3.97 g (20 mmol) of 4-fluorobenzenesulfonyl chloride and 3.11 g (50 mmol) of ethanolamine, yielding 3.0 g of a white solid; m.p. 77-78° C.; MS (ES) m/z 219.8 (MH+); HRMS (EI) Calcd. for C8H10FNO3S (M+): 219.0366, Found: 219.0369.

reactant | 4-fluorobenzenesulfonyl chloride | 20 mmol, 3.97 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | ethanolamine | 50 mmol, 3.11 g | C(O)CN | C2H7NO
product | 4-Fluoro-N-(2-hydroxyethyl)-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NCCO | C8H10FNO3S
